US06599917B1
b) 2-Benzyl-6-(2-hydroxy-3-butenyl)oxy-3-pyridyl Trifluoromethanesulfonate
473 mg of pyridinium dichromate was added to a mixture of 395 mg of 2-benzyl-6-(2-hydroxyethyl)oxy-3-pyridyl trifluoromethanesulfonate, 1.4 g of molecular sieves 4A and 5 ml of dichloromethane at room temperature, followed by stirring for 3 hours. The mixture was filtered through Celite, and the solvent was removed. 236 μl of a tetrahydrofuran solution containing 1.1 mol of vinylmagnesium bromide was added to a solution of 5 ml of diethyl ether containing the residue at 0° C., followed by stirring at the same temperature for 40 minutes. An aqueous saturated ammonium chloride solution and diethyl ether were added to the reaction solution, and the organic phase was washed with water and brine, dried over anhydrous magnesium sulfate and the solvent was removed. The residue was subjected to silica gel column chromatography using 30% ethyl acetate/hexane, to give 46.5 mg of the target compound.

reactant | pyridinium dichromate | 473 mg | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | 2-benzyl-6-(2-hydroxyethyl)oxy-3-pyridyl trifluoromethanesulfonate | 395 mg | FC(S(=O)(=O)OC=1C(=NC(=CC1)OCCO)CC1=CC=CC=C1)(F)F | C15H14F3NO5S
reactant | vinylmagnesium bromide | 1.1 mol | C(=C)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 236 μl | O1CCCC1 | C4H8O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 2-Benzyl-6-(2-hydroxy-3-butenyl)oxy-3-pyridyl Trifluoromethanesulfonate | 46.5 mg | FC(S(=O)(=O)OC=1C(=NC(=CC1)OCC(C=C)O)CC1=CC=CC=C1)(F)F | C17H16F3NO5S
